US08258130B2
To a slurry of N-(6-tert-butyl-3-oxo-2,5-dihydro-3H-1,2,4-triazin-4-yl)-acetamide (0.51 g, 2.40 mmol) in MeOH (5 mL) is added concentrated HCl (0.33 mL, 3.84 mmol). The mixture is heated to reflux for 3 h. The mixture is then chilled to 0° C. and basified with 1 M aqueous NaOH (2.9 mL) to pH 12, and concentrated in vacuo. EtOH is added to the residue with stirring and the mixture is filtered. The filtrate is concentrated in vacuo. CH3CN is added to the residue with stirring and the mixture is filtered. The filtrate is concentrated in vacuo to afford 4-amino-6-tert-butyl-4,5-dihydro-2H-1,2,4-triazin-3-one (0.354 g, 84%) as a solid. MS: 171 (M+H); 1H NMR (300 MHz, DMSO-d6) δ 7.49 (br s, 1H), 4.22 (br s, 2H), 4.06 (s, 2H), 1.15 (s, 9H).

reactant | N-(6-tert-butyl-3-oxo-2,5-dihydro-3H-1,2,4-triazin-4-yl)-acetamide | 2.40 mmol, 0.51 g | C(C)(C)(C)C=1CN(C(NN1)=O)NC(C)=O | C9H16N4O2
reactant | HCl | 3.84 mmol, 0.33 mL | Cl | ClH
reactant | NaOH | 1 M, 2.9 mL | [OH-].[Na+]
solvent | MeOH | 5 mL | CO | CH4O
product | 4-amino-6-tert-butyl-4,5-dihydro-2H-1,2,4-triazin-3-one | 0.354 g, 84% | NN1C(NN=C(C1)C(C)(C)C)=O | C7H14N4O
